US05909114
Glutamic acid was determined in the same manner as in Example 3 except that enzyme reaction was carried at 50° C. for 20 minutes in the presence of 3-acetylpyridine NAD (produced by Sigma Co. Ltd.) as coenzyme for glutamate, dehydrogenase (i.e., 3-acetylpyridine NADH formed by enzyme reaction was used as an indicator). The results had a good linear relationship to the real concentrations of glutamic acid. The measurements could be effected in a very short time (about 30 seconds).

reactant | Glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | 3-acetylpyridine NAD | CC(=O)C1=C[N+](=CC=C1)C2C(C(C(O2)COP(=O)(O)OP(=O)(O)OCC3C(C(C(O3)N4C=NC5=C4N=CN=C5N)O)O)O)O
reactant | glutamate | N[C@@H](CCC(=O)[O-])C(=O)[O-]
product | 3-acetylpyridine NADH | C(C)(=O)C=1C=NC=CC1.C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | InChI=1S/C21H29N7O14P2.C7H7NO/c22-17-12-19(25-7-24-17)28(8-26-12)21-16(32)14(30)11(41-21)6-39-44(36,37)42-43(34,35)38-5-10-13(29)15(31)20(40-10)27-3-1-2-9(4-27)18(23)33;1-6(9)7-3-2-4-8-5-7/h1,3-4,7-8,10-11,13-16,20-21,29-32H,2,5-6H2,(H2,23,33)(H,34,35)(H,36,37)(H2,22,24,25);2-5H,1H3/t10-,11-,13-,14-,15-,16-,20-,21-;/m1./s1
